data/polar.json
{"reaction_name": "Electrophilic fluorination", "rsmi": "[CH:1]1=[CH:6][c:7]2[cH:16][cH:15][cH:27][cH:12][c:18]2[CH:28]1[Na:20].[O:2]=[S:22](=[O:3])([N:19]([F:17])[S:21](=[O:4])(=[O:5])[c:29]1[cH:8][cH:23][cH:13][cH:26][cH:11]1)[c:30]1[cH:9][cH:24][cH:14][cH:25][cH:10]1>>[CH:1]1=[CH:6][c:7]2[cH:16][cH:15][cH:27][cH:12][c:18]2[CH:28]1[F:17].[Na+:20].[O:2]=[S:22](=[O:3])([N-:19][S:21](=[O:4])(=[O:5])[c:29]1[cH:8][cH:23][cH:13][cH:26][cH:11]1)[c:30]1[cH:9][cH:24][cH:14][cH:25][cH:10]1", "epd": [["Sigma-/Sigma+", [28, 20], [28, 17]], ["Sigma-/LP+", [17, 19], [19]]]}
{"reaction_name": "Dearomatizing spirocyclization sequence", "rsmi": "[O:1]([H:12])[c:2]1[cH:3][cH:4][c:5]([CH2:6][CH2:7][C:8](=[O:9])[O:10][H:11])[cH:13][cH:14]1.[c:16]1([I:15]([O:22][C:23](=[O:24])[CH3:25])[O:26][C:27](=[O:28])[CH3:29])[cH:17][cH:18][cH:19][cH:20][cH:21]1>>[O:1]=[C:2]1[CH:3]=[CH:4][C:5]2([CH:13]=[CH:14]1)[CH2:6][CH2:7][C:8](=[O:9])[O:10]2.[c:16]1([I:15])[cH:17][cH:18][cH:19][cH:20][cH:21]1.[O:22]([H:12])[C:23](=[O:24])[CH3:25].[O:26]([H:11])[C:27](=[O:28])[CH3:29]", "epd": [["Sigma-/Pi+", [1, 12], [1, 2]], ["Pi-/Pi+", [2, 3], [3, 4]], ["Pi-/Sigma+", [4, 5], [5, 10]], ["Sigma-/Sigma+", [10, 11], [11, 26]], ["Sigma-/Sigma+", [15, 22], [12, 22]], ["Sigma-/LP+", [15, 26], [15]]]}
{"reaction_name": "Allenylboration", "rsmi": "[CH3:1][O:8][B:10]([CH:3]=[C:7]=[CH2:11])[O:9][CH3:2].[O:4]=[CH:6][CH3:5]>>[CH3:1][O:8][B:10]([O:4][CH:6]([CH:3]=[C:7]=[CH2:11])[CH3:5])[O:9][CH3:2]", "epd": [["Pi-/Sigma+", [4, 6], [4, 10]], ["Sigma-/Sigma+", [3, 10], [3, 6]]]}
{"reaction_name": "General nucleophilic addition to a neutral imine", "rsmi": "[C:1]1(=[O:8])[CH:17]=[CH:10][C:16](=[N+:19]([O-:14])[O-:15])[CH:11]=[CH:18]1.[C:2]([O:9][C:25](=[O:6])[N:21]=[CH:7][c:5]1[cH:3][cH:12][cH:20][cH:13][cH:4]1)([CH3:22])([CH3:23])[CH3:24]>>[c:1]1([O:8][CH:7]([c:5]2[cH:3][cH:12][cH:20][cH:13][cH:4]2)[N:21]=[C:25]([O-:6])[O:9][C:2]([CH3:22])([CH3:23])[CH3:24])[cH:17][cH:10][c:16]([N+:19](=[O:14])[O-:15])[cH:11][cH:18]1", "epd": [["LP-/Pi+", [14], [19, 14]], ["Pi-/Pi+", [16, 19], [10, 16]], ["Pi-/Pi+", [17, 10], [1, 17]], ["Pi-/Sigma+", [8, 1], [8, 7]], ["Pi-/Pi+", [7, 21], [21, 25]], ["Pi-/LP+", [25, 6], [6]]]}
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[NH:3]1[CH2:23][CH2:10][CH2:9][CH:28]1[C:39]([c:14]1[cH:17][cH:30][cH:11][cH:35][cH:22]1)([c:15]1[cH:18][cH:31][cH:12][cH:32][cH:19]1)[c:16]1[cH:20][cH:33][cH:13][cH:34][cH:21]1.[c:1]12[c:5]([cH:26][cH:24][cH:37][cH:7]1)-[c:6]1[c:2]([cH:8][cH:38][cH:25][cH:27]1)[N+:36]2=[CH:4][CH3:29]>>[c:1]12[c:5]([c:6]3[c:2]([cH:8][cH:38][cH:25][cH:27]3)[n:36]1[CH:4]([NH+:3]1[CH2:23][CH2:10][CH2:9][CH:28]1[C:39]([c:14]1[cH:17][cH:30][cH:11][cH:35][cH:22]1)([c:15]1[cH:18][cH:31][cH:12][cH:32][cH:19]1)[c:16]1[cH:20][cH:33][cH:13][cH:34][cH:21]1)[CH3:29])[cH:26][cH:24][cH:37][cH:7]2", "epd": [["LP-/Sigma+", [3], [3, 4]], ["Pi-/LP+", [4, 36], [36]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[C:1]1([O:14][Si:4]([CH3:15])([CH3:16])[CH3:17])=[C:13]([CH3:11])[CH2:6][CH2:3][O:12]1.[CH:2](=[O+:19][CH3:18])[c:20]1[cH:9][cH:7][cH:5][cH:8][cH:10]1>>[C:1]1(=[O+:14][Si:4]([CH3:15])([CH3:16])[CH3:17])[O:12][CH2:3][CH2:6][C:13]1([CH:2]([O:19][CH3:18])[c:20]1[cH:9][cH:7][cH:5][cH:8][cH:10]1)[CH3:11]", "epd": [["LP-/Pi+", [14], [1, 14]], ["Pi-/Sigma+", [13, 1], [13, 2]], ["Pi-/LP+", [2, 19], [19]]]}
{"reaction_name": "Vinylogous Michael addition", "rsmi": "[CH3:5][O:10][c:19]1[cH:42][cH:27][c:24]([CH:36]=[C:35]2[CH:39]=[C:20]([Br:31])[C:23](=[O:30])[C:21]([Br:32])=[CH:40]2)[cH:28][cH:43]1.[N:1]1([c:22]2[cH:33][cH:2][n:41][cH:3][cH:34]2)[CH2:15][CH2:38][CH2:4][CH:16]1[C:29]([c:25]1[cH:6][cH:11][cH:17][cH:12][cH:7]1)([c:26]1[cH:8][cH:13][cH:18][cH:14][cH:9]1)[F:37]>>[N+:1]1(=[c:22]2[cH:33][cH:2][n:41]([CH:36]([c:24]3[cH:27][cH:42][c:19]([O:10][CH3:5])[cH:43][cH:28]3)[c:35]3[cH:39][c:20]([Br:31])[c:23]([O-:30])[c:21]([Br:32])[cH:40]3)[cH:3][cH:34]2)[CH2:15][CH2:38][CH2:4][CH:16]1[C:29]([c:25]1[cH:6][cH:11][cH:17][cH:12][cH:7]1)([c:26]1[cH:8][cH:13][cH:18][cH:14][cH:9]1)[F:37]", "epd": [["LP-/Pi+", [1], [1, 22]], ["Pi-/Pi+", [20, 39], [20, 23]], ["Pi-/Pi+", [22, 34], [3, 34]], ["Pi-/Pi+", [35, 36], [35, 39]], ["Pi-/Sigma+", [3, 41], [36, 41]], ["Pi-/LP+", [23, 30], [30]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:19][c:20]1[c:5]([CH3:29])[cH:6][nH:17][c:16]1[CH3:4].[S:2]([c:8]1[cH:21][cH:12][cH:10][cH:15][cH:24]1)([C:18]([S:3]([c:9]1[cH:22][cH:13][cH:11][cH:14][cH:23]1)(=[O:25])=[O:26])=[CH2:7])(=[O:27])=[O:28]>>[CH3:1][CH2:19][C:20]1=[C:5]([CH3:29])[CH:6]([CH2:7][C-:18]([S:2]([c:8]2[cH:21][cH:12][cH:10][cH:15][cH:24]2)(=[O:27])=[O:28])[S:3]([c:9]2[cH:22][cH:13][cH:11][cH:14][cH:23]2)(=[O:25])=[O:26])[NH+:17]=[C:16]1[CH3:4]", "epd": [["LP-/Pi+", [17], [16, 17]], ["Pi-/Pi+", [20, 16], [5, 20]], ["Pi-/Sigma+", [6, 5], [6, 7]], ["Pi-/LP+", [7, 18], [18]]]}
